US04182776
p-(2-Phenoxyethylamino)benzoic acid
A mixture of 12 g of ethyl p-(2-phenoxyethylamino)-benzoate, 12 g of potassium hydroxide and 200 ml of ethanol-water (9:1) is refluxed for 3.5 hours. The solution is acidified while hot with concentrated hydrochloric acid, diluted with water, cooled, filtered and the solid washed with water to give crystals, mp 172°-175° C. Recrystallization from ethanol gives off-white crystals, mp 174°-176° C.

reactant | ethyl p-(2-phenoxyethylamino)-benzoate | 12 g | O(C1=CC=CC=C1)CCNC1=CC=C(C(=O)OCC)C=C1 | C17H19NO3
reactant | potassium hydroxide | 12 g | [OH-].[K+]
reactant | ethanol water | 200 ml | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-(2-Phenoxyethylamino)benzoic acid | O(C1=CC=CC=C1)CCNC1=CC=C(C(=O)O)C=C1 | C15H15NO3
